US04846873
2-Carboethoxybenzaldehyde
To a 3-neck 500 ml round-bottom flask equipped with a magnetic stirrer, reflux condenser and addition funnel was added 2-carboxybenzaldehyde (30.00 g, 0.200 moles), diethylsulfate (33.92 g, 0.220 moles) and 150 ml of dichloromethane under nitrogen. The mixture was heated to reflux and triethylamine (30.36 g, 0.300 moles) was added at such a rate to maintain a brisk reflux. After the addition was complete, the solution was heated at reflux for 1 hour and then allowed to cool to room temperature and stirred overnight. The mixture was then washed with water (1×50 ml), 1.0N hydrochloric and solution (1×50 ml), saturated sodium bicarbonate solution (1×50 ml), saturated sodium chloride solution (1×50 ml), dried over magnesium sulfate and concentrated in vacuo to give 21.0 g of the product as a pale yellow oil.

reactant | 2-carboxybenzaldehyde | 0.200 moles, 30.00 g | C(=O)(O)C1=C(C=O)C=CC=C1 | C8H6O3
reactant | diethylsulfate | 0.220 moles, 33.92 g | C(C)OS(=O)(=O)OCC | C4H10O4S
reactant | triethylamine | 0.300 moles, 30.36 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 2-Carboethoxybenzaldehyde | 21.0 g | C(=O)(OCC)C1=C(C=O)C=CC=C1 | C10H10O3
